US07342031B2
To 4 ml of N,N-dimethylformamide, 0.334 g of 5-chloro-3-methylthio-1,2,4-thiadiazole and 228 mg of 2-thiophenemethanol were dissolved, and added 0.084 g of sodium hydride (60% in oil) at about 0° C., followed by stirring at about 0° C. for 0.5 hours and at room temperature for 4 hours. Then, the reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with tert-butylmethylether. The organic layer was concentrated, and the residue obtaind was subjected to silica gel column chromatography to obtain 66 mg of 5-(2-thienyl)methoxy-3-methylthio-1,2,4-thiadiazole.

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 0.334 g | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | 2-thiophenemethanol | 228 mg | S1C(=CC=C1)CO | C5H6OS
reactant | sodium hydride | 0.084 g | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 5-(2-thienyl)methoxy-3-methylthio-1,2,4-thiadiazole | 66 mg | S1C(=CC=C1)COC1=NC(=NS1)SC | C8H8N2OS3
